US07196104B2
Preparation CG: 2-[(6-Amino-pyridin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester
In a manner similar to that described in Preparation CD, 2-formyl-piperidine-1-carboxylic acid tert-butyl ester (360 mg, 1.69 mmol) was treated with 2,6-diaminopyridine (184 mg, 1.69 mmol) and stirred at RT to give a light brown oil. MS m/z: 307.3(M+H). Calc'd. for C16H26N4O2-306.21.

reactant | 2-formyl-piperidine-1-carboxylic acid tert-butyl ester | 1.69 mmol, 360 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)C=O | C11H19NO3
reactant | 2,6-diaminopyridine | 1.69 mmol, 184 mg | NC1=NC(=CC=C1)N | C5H7N3
product | 2-[(6-Amino-pyridin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CNC1=NC(=CC=C1)N | C16H26N4O2
